US04845293
Preparation of 4-chloro-2-(β-hydroxyethyl)amino-6-(β-hydroxyethyl)aminonitrobenzene
0.132 mole (30 g) of 2,4,6-trichloronitrobenzene is heated to 95° C. in 120 ml of ethanolamine. After 30 minutes, the reaction medium is poured into 240 g of an ice-water mixture. The product expected precipitates. It is drained, washed with water and then dried under vacuum in the presence of phosphorous pentoxide. After recrystallizing from absolute ethanol, it melts at 154° C.

reactant | 2,4,6-trichloronitrobenzene | 0.132 mole, 30 g | ClC1=C(C(=CC(=C1)Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | ethanolamine | 120 ml | C(O)CN | C2H7NO
product | 4-chloro-2-(β-hydroxyethyl)amino-6-(β-hydroxyethyl)aminonitrobenzene | ClC1=CC(=C(C(=C1)NCCO)[N+](=O)[O-])NCCO | C10H14ClN3O4
